US07846960B2
4-Formyl-2-methyl-benzoic Acid Methyl Ester
To a 0° C. solution of 4-hydroxymethyl-2-methyl-benzoic acid methyl ester (0.49 g, 2.7 mmol) in methylene chloride (8.0 mL) are added sodium bicarbonate (0.46 g, 5.4 mmol) and Dess-Martin periodinane (0.14 g, 3.3 mmol) sequentially. The mixture is stirred at room temperature for 1.0 h and is quenched with water (2.0 mL). The mixture is partitioned between CH2Cl2 (30 mL) and water (30 mL). The organic phase is washed with brine (30 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to afford the title compound as syrup (0.35 g, 72%). 1HNMR (CDCl3) (ppm): 2.6 (3H, s), 3.85 (3H, s), 7.65-8.0 (3H, m), 10.0 (1H, s).

reactant | 4-hydroxymethyl-2-methyl-benzoic acid methyl ester | 2.7 mmol, 0.49 g | COC(C1=C(C=C(C=C1)CO)C)=O | C10H12O3
reactant | sodium bicarbonate | 5.4 mmol, 0.46 g | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 3.3 mmol, 0.14 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 8.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Formyl-2-methyl-benzoic Acid Methyl Ester | 0.35 g, 72% | COC(C1=C(C=C(C=C1)C=O)C)=O | C10H10O3
